US07612079B2
(2RS,3R)-3-(Trityl-amino)-pentan-2-ol
To a stirred solution of (R)-2-(trityl-amino)-butyraldehyde (0.59 g, 1.79 mmol) in Et2O (25 mL) under Ar at −70° C., was added methyl lithium (1.4 M in Et2O; 1.88 mL, 2.63 mmol) dropwise. The reaction mixture was stirred at this temperature for 30 min and then allowed to warm to RT over 15 min and stirred at this temperature for 1 h. The mixture was cooled to 0° C. to which was slowly added H2O (25 mL) and the solution was extracted between Et2O (100 mL) and H2O (100 mL). The aqueous phase was extracted with more Et2O (2×50 mL), and the combined organic phase was washed with brine (50 mL), dried (MgSO4) and evaporated in vacuo to afford the title compounds as a light yellow oil (0.58 g, 94%). 1H-NMR (d6-DMSO, 250 MHz): δ 0.42-0.57 (m, 3H, —NHCH(CH2CH3)CH(CH3)OH), 0.97-1.15 (m, 5H, —NHCH(CH2CH3)CH(CH3)OH+—NHCH(CH2CH3)CH(CH3)OH), 2.01 (m, 1H, —NHCH(CH2CH3)CH(CH3)OH), 3.26 (m, 1H, —NHCH(CH2CH3)CH(CH3)OH), 4.39 (d, 1H, J=4.10 Hz, —NHCH(CH2CH3)CH(CH3)OH), 7.13-7.50 (m, 15H, 3×Bz).

reactant | (R)-2-(trityl-amino)-butyraldehyde | 1.79 mmol, 0.59 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@@H](C=O)CC | C23H23NO
reactant | methyl lithium | 2.63 mmol, 1.4 M, 1.88 mL | C[Li]
reactant | H2O | 25 mL | O | H2O
solvent | Et2O | 25 mL | CCOCC | C4H10O
product | (2RS,3R)-3-(Trityl-amino)-pentan-2-ol | 0.58 g, 94% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@@H](C(C)O)CC | C24H27NO
